US09416138B2
N-[(1R)-1-(4-Formylphenyl)ethyl]methanesulfonamide
Combine N-[(1R)-1-(4-bromophenyl)ethyl]-methanesulfonamide (10 g, 35 mmol), (1,1′-bis(diphenylphosphino)-ferrocene)palladium(II)chloride (733 mg, 0.9 mmol), sodium carbonate (3.81 g, 35 mmol) and DMF (50 mL) in a 300 mL PARR reactor. Add triethylsilane (11.6 mL, 0.72 mmol) and purge the reactor with carbon monoxide three times. Charge the reactor with carbon monoxide (50 psi); seal; and stir the mixture at 90° C. for 15 hours. Cool the reactor to ambient temperature; filter the resulting mixture over Celite® pad; and wash the pad with DCM (150 mL). Collect the filtrate and sequentially wash the filtrate with water then brine (2×80 mL). Concentrate the organic filtrate under reduced pressure to obtain the residue as an orange oil. Purify by silica gel flash chromatography eluting with hexane/EtOAc (0 to 30% EtOAc) to provide the title compound (5.6 g, 70%, ee>98%). MS (m/z): 228 (M+1).

reactant | N-[(1R)-1-(4-bromophenyl)ethyl]-methanesulfonamide | 35 mmol, 10 g | BrC1=CC=C(C=C1)[C@@H](C)NS(=O)(=O)C | C9H12BrNO2S
reactant | sodium carbonate | 35 mmol, 3.81 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triethylsilane | 0.72 mmol, 11.6 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | carbon monoxide | [C]=O | CO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | N-[(1R)-1-(4-Formylphenyl)ethyl]methanesulfonamide | C(=O)C1=CC=C(C=C1)[C@@H](C)NS(=O)(=O)C | C10H13NO3S
